US07763657B2
Step 1: 3-[4-tert-Butyl-2-(2-piperidine-1-yl-ethoxy)phenyl]acrylic acid ethyl ester
3-(4-tert-Butyl-2-hydroxyphenyl)acrylic acid ethyl ester (59.0 mg, 0.238 mmol) and NaH (47.5 mg, 60% disp. oil, 5 eq) were added in anhydrous DMF. The reaction mixture was cooled down to 0° C. 1-(2-Chloroethyl)piperidine hydrochloride (87.6 mg 0.476 mmol, 2 eq) was added. The mixture was heated to 90° C. The reaction was stirred for 12 hr at 90° C. The reaction was quenched by adding H2O. The reaction mixture extracted with EtOAc and then washed with H2O and brine. The residue was purified with column chromatography (EtOAc) to give a yellow liquid (14.0 mg, 16.4%).

reactant | 3-(4-tert-Butyl-2-hydroxyphenyl)acrylic acid ethyl ester | 0.238 mmol, 59.0 mg | C(C)OC(C=CC1=C(C=C(C=C1)C(C)(C)C)O)=O | C15H20O3
reactant | NaH | 47.5 mg, 5 eq | [H-].[Na+]
reactant | 1-(2-Chloroethyl)piperidine hydrochloride | 0.476 mmol, 87.6 mg, 2 eq | Cl.ClCCN1CCCCC1
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-[4-tert-Butyl-2-(2-piperidine-1-yl-ethoxy)phenyl]acrylic acid ethyl ester | 14.0 mg, 16.4% | C(C)OC(C=CC1=C(C=C(C=C1)C(C)(C)C)OCCN1CCCCC1)=O | C22H33NO3
